US06908922B2
5-Methoxy-1H-pyrrolo[2,3-c]pyridine
10.76 g of N,N-dimethylformamide dimethyl acetal and 2.45 ml of pyrrolidine are added, in succession, to a solution of 5 g of the product obtained in Step 1 in 60 ml of dimethylformamide. The mixture obtained is first heated at 100° C. for 8 hours and then at 150° C. for 1 hour. Concentration is carried out under a vacuum of 10−1 mbar and the residue is taken up in 150 ml of tetrahydrofuran. The solution obtained is hydrogenated under a pressure of 10 bars for 4 hours in the presence of 10% Pd/C. After filtration and concentration, the residue is chromatographed over silica (eluant CH2Cl2/EtOH: 95/5) to yield the expected product.

reactant | N,N-dimethylformamide dimethyl acetal | 10.76 g | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 2.45 ml | N1CCCC1 | C4H9N
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | Pd/C | [Pd] | Pd
product | 5-Methoxy-1H-pyrrolo[2,3-c]pyridine | COC=1C=C2C(=CN1)NC=C2 | C8H8N2O
